US04550105
In 2 ml of water is dissolved 50 mg of sodium trans-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate (syn-isomer) as obtained in Example 24C, followed by addition of 15 mg of sodium monomethyldithiocarbamate under ice-water cooling and stirring. The mixture is stirred at room temperature for 30 minutes and after further addition of 15 mg of sodium monomethyldithiocarbamate, the mixture is stirred for 30 minutes. The reaction mixture is filtered and the filtrate is washed with ether. The aqueous layer is chromatographed on an Amberlite XAD-II column and lyophilized to give sodium trans-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate (syn-isomer).

reactant | sodium trans-3-[2-(2-chloroacetamido-4-thiazolyl)-2-methoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate | 50 mg | ClCC(=O)NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC.[Na+]
reactant | sodium monomethyldithiocarbamate | 15 mg | CSC(N)=S.[Na]
reactant | sodium monomethyldithiocarbamate | 15 mg | CSC(N)=S.[Na]
solvent | water | 2 ml | O | H2O
product | sodium trans-3-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-4-methoxycarbonyl-2-oxoazetidine-1-sulfonate | NC=1SC=C(N1)C(C(=O)N[C@@H]1C(N([C@H]1C(=O)OC)S(=O)(=O)[O-])=O)=NOC.[Na+] | InChI=1S/C11H13N5O8S2.Na/c1-23-10(19)7-6(9(18)16(7)26(20,21)22)14-8(17)5(15-24-2)4-3-25-11(12)13-4;/h3,6-7H,1-2H3,(H2,12,13)(H,14,17)(H,20,21,22);/q;+1/p-1/t6-,7+;/m0./s1
